US04156732
2-Ethyl-3-(4-chloro-3-sulfamoylbenzoyl)-benzo[b]furan
10 mg of powdered 4-chloro-3-sulfamoylbenzoyl chloride (melting point, m.p. 166° C.), prepared from 4-chloro-3-sulfamoylbenzoic acid and thionyl chloride, are introduced into 70 ml of anhydrous chlorobenzene, subsequently 6.32 g of 2-ethylbenzo[b]furan are added, and the reaction mixture is cooled to 0° C. After addition of 11.4 g of anhydrous aluminum chloride, the reaction batch is maintained at a temperature of 5° to 10° C., subsequently stirred for 5 hours at 15° C., and the mixture is then poured into a suspension of 200 g of ice and 10 ml of concentrated hydrochloric acid. After extraction with ethyl acetate and washing with water, the organic phase is stirred for 6 hours with a dilute NaHCO3 solution having a pH of 8.5, dried over magnesium sulfate, and, after evaporation, a light yellow to colorless viscous oil is obtained which crystallizes from petroleum ether. Colorless crystals, m.p. 170°-172° C. (from a small amount of methanol).

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 10 mg | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 4-chloro-3-sulfamoylbenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H6ClNO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-ethylbenzo[b]furan | 6.32 g | C(C)C1=CC2=C(O1)C=CC=C2 | C10H10O
reactant | aluminum chloride | 11.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | chlorobenzene | 70 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Ethyl-3-(4-chloro-3-sulfamoylbenzoyl)-benzo[b]furan | C(C)C1=C(C2=C(O1)C=CC=C2)C(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O | C17H14ClNO4S
